US06613786B2
Concentrated HCl (25 ml) was added to a mixture of 2-nitro-4-chloro-6-allylanisole (11.25 g) and granulated tin (9.02 g). The resulting mixture was stirred for 1 hour with heating at a boiling water bath temperature. The reaction mixture was then cooled to 0° C. and was made basic by addition of 10 N NaOH. The resulting mixture was extracted with dichloromethane. The organic layer was washed with water, dried over MgSO4, and concentrated in vacuo to give crude 2-amino-4-chloro-6-allylanisole (9.34 g, 95%) which was used in the next step without purification. 1H NMR (300 MHz, CDCl3) δ6.61 (d, J=2.5 Hz, 1 H), 6.55 (d, J=2.5 Hz, 1 H), 5.98-5.89 (m, 1 H), 5.13-5.06 (m, 2 H), 3.72 (s, 3 H), 3.36 (d, J=6.5 Hz, 2 H).

reactant | HCl | 25 ml | Cl | ClH
reactant | 2-nitro-4-chloro-6-allylanisole | 11.25 g | [N+](=O)([O-])C1=C(C(=CC(=C1)Cl)CC=C)OC | C10H10ClNO3
reactant | tin | 9.02 g | [Sn] | Sn
reactant | NaOH | 10 N | [OH-].[Na+]
product | 2-amino-4-chloro-6-allylanisole | 9.34 g, 95% | NC1=C(C(=CC(=C1)Cl)CC=C)OC | C10H12ClNO
